US04230635
4-amino-4'-(hexafluoro-2-hydroxy-2-propyl)benzenesulfonanilide
Reflux for 3 hours a solution of 2.3 g (5 mmole) 4-acetamido-4'-(hexafluoro-2-hydroxy-2-propyl)benzenesulfonanilide in 30 ml EtOH and 4 g 50% NaOH. Pour onto water, acidify with concentrated HCl, extract with Et2O, dry and concentrate. Recrystallize from CHCl3 -Et2O to give the product; m.p. 160°-161° C.

reactant | 4-acetamido-4'-(hexafluoro-2-hydroxy-2-propyl)benzenesulfonanilide | 5 mmole, 2.3 g | C(C)(=O)NC1=CC=C(C=C1)S(=O)(=O)NC1=CC=C(C=C1)C(C(F)(F)F)(C(F)(F)F)O | C17H14F6N2O4S
reactant | HCl | Cl | ClH
solvent | EtOH | 30 ml | CCO | C2H6O
solvent | NaOH | 4 g | [OH-].[Na+]
product | 4-amino-4'-(hexafluoro-2-hydroxy-2-propyl)benzenesulfonanilide | NC1=CC=C(C=C1)S(=O)(=O)NC1=CC=C(C=C1)C(C(F)(F)F)(C(F)(F)F)O | C15H12F6N2O3S
